US08304419B2
Step B: {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid
The crude bis(1,1-dimethylethyl) {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}propanedioate was dissolved in CH2Cl2 (25 mL) and TFA (25 mL) and heated to reflux for 2 h. The reaction mixture was cooled to RT and evaporated. Water (50 mL) and EtOAc (50 mL) were added, the layers were separated and the aqueous layer extracted with EtOAc (3×50 mL). The organic extracts were combined, dried over Na2SO4, filtered and evaporated to give the title compound as an oil. 1H NMR (400 MHz, DMSO-d6): δ ppm 8.03 (d, 1H), 7.81 (s, 1H), 7.50-7.62 (m, 3H), 3.84 (s, 2H). MS: m/z 349.1 (M−1).

reactant | bis(1,1-dimethylethyl) {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}propanedioate | ClC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1[N+](=O)[O-])C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)F | C24H24ClFN2O7
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid | ClC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1[N+](=O)[O-])CC(=O)O)F | C15H8ClFN2O5
